US06492562B1
J. (±)-N-[(2R*,3S*)-(4-(2-Methoxyethoxy)-2-methyl-3-hydroxybutanoyl)]-2-benzoxazolone
Prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolinone with (2-methoxyethoxy)acetaldehyde. 13C-NMR (CDCl3, 100 MHz): δ 175.01, 151.02, 142.18, 127.91, 125.30, 124.77, 116.15, 109.76, 73.23, 71.86, 70.73, 70.64, 58.88, 41.63, 11.88.

reactant | N-propionyl-2-benzoxazolinone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | (2-methoxyethoxy)acetaldehyde | COCCOCC=O | C5H10O3
product | (±)-N-[(2R*,3S*)-(4-(2-Methoxyethoxy)-2-methyl-3-hydroxybutanoyl)]-2-benzoxazolone | COCCOC[C@H]([C@H](C(=O)N1C(OC2=C1C=CC=C2)=O)C)O | C15H19NO6
